US06716851B2
4-[3-Methyl-5-(trifluoromethyl)anilino]-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3-methyl-5-(trifluoromethyl)aniline (51 mg, 0.290 mmol) similar to Example 117 and isolated as a yellow solid (60 mg, 78%). 1H NMR (DMSO-d6): 10.60 (s, 1H), 9.45-9.44 (m, 1H), 8.77-8.75 (m, 1H), 8.60-8.56 (m, 1H), 8.30 (s, 1H), 7.68 (s, 1H), 7.62-7.58 (m, 1H), 7.32 (s, 1H), 7.16 (s, 1H), 2.45 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-methyl-5-(trifluoromethyl)aniline | 0.290 mmol, 51 mg | CC=1C=C(N)C=C(C1)C(F)(F)F | C8H8F3N
product | 4-[3-Methyl-5-(trifluoromethyl)anilino]-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | CC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C1)C(F)(F)F | C18H12F6N4
